US07943651B2
Intermediate 20: 3-(4-Bromo-6-methyl-1H-indazol-1-yl)benzoic acid
A solution of 3-{2-[(2,6-dibromo-4-methylphenyl)methylidene]hydrazino}benzoic acid (1050 g) in DMF (3.46 L) was cooled to 10° C. under nitrogen. Lithium bis(trimethylsilyl)amide solution (1M in THF, 6.34 L) was then added while maintaining the temperature below 15° C. The stirred solution was heated at 70±3° C. for 64 hrs and then the reaction mixture was cooled to 5° C. and quenched sequentially with the slow addition of water (4.2 L), 5M hydrochloric acid (2.62 L) and water (3.68 L). The resulting slurry was stirred at 5° C. for 1 hr 34 min, filtered and washed successively with purified water (1 L and then 2.1 L at 5±5° C.) and methanol (2×1 L at 5±5° C.). The solid was dried in vacuo at 50° C. to afford the title compound (742.9 g).

reactant | 3-{2-[(2,6-dibromo-4-methylphenyl)methylidene]hydrazino}benzoic acid | 1050 g | BrC1=C(C(=CC(=C1)C)Br)C=NNC=1C=C(C(=O)O)C=CC1 | C15H12Br2N2O2
reactant | Lithium bis(trimethylsilyl)amide | 1M, 6.34 L | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | DMF | 3.46 L | CN(C)C=O | C3H7NO
product | 3-(4-Bromo-6-methyl-1H-indazol-1-yl)benzoic acid | 742.9 g | BrC1=C2C=NN(C2=CC(=C1)C)C=1C=C(C(=O)O)C=CC1 | C15H11BrN2O2
